US04731358
3-bromo-β-carboline
2 g of 3-amino-β-carboline, suspended in 25 ml of 48% hydrobromic acid, are mixed with 6 ml of a 2-molar sodium nitrite solution at 0°-5° C. The mixture is added at 0°-5° C. to a solution of 2.1 g of copper-I-bromide in 20 ml of 24% hydrobromic acid. The reaction mixture is heated briefly in a steam bath and then repeatedly extracted with a mixture consisting of 9 parts of ethyl acetate and one part of ethane. The combined extracts are evaporated, the residue chromatographed (silica gel, methylene chloride/methanol=19:1). The main fraction crystallizes on treatment with ethyl acetate. Yield: 0.5 g of 3-bromo-β-carboline; melting point: 300° C.

reactant | 3-amino-β-carboline | 2 g | NC=1N=CC=2NC3=CC=CC=C3C2C1 | C11H9N3
reactant | sodium nitrite | 2-molar | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 25 ml | Br | BrH
reactant | hydrobromic acid | 20 ml | Br | BrH
product | 3-bromo-β-carboline | BrC=1N=CC=2NC3=CC=CC=C3C2C1 | C11H7BrN2
